US07220869B2
Preparation of 2-Pyrrolidonium Tetrafluoroborate
To a 100 ml flask containing 8.51 g of 2-pyrrolidone (0.1 mol), 30 ml water was added and stirred for dissolution. Then 21.95 g 40% aqueous solution of tetrafluoroboric acid (0.1 mol) was added dropwise into the flask over 20 min at room temperature. Then the reaction was stirred for another 1 hour. Desired product was formed after water was removed under reduced pressure and then dried at 110° C. under 1–5 mmHg for 1 hour. The brown viscous, moisture- and water-stable liquid of 2-pyrrolidonium tetrafluoroborate was obtained with a yield of 97.2%, which has a glass transition temperature of −73° C., density of 1.46 g/ml, viscosity of 350 cP, an electrochemical window of 2.2 V, an ionic conductivity of 8.39×10−4 S/cm, and a Hammett acidic scale H0 of 0.91 using 2,4-dinitroaniline as indicator. No melting point was observed.

reactant | 2-pyrrolidone | 0.1 mol, 8.51 g | N1C(CCC1)=O | C4H7NO
reactant | tetrafluoroboric acid | 0.1 mol | F[B-](F)(F)F.[H+]
solvent | water | O | H2O
solvent | water | 30 ml | O | H2O
product | 2-Pyrrolidonium Tetrafluoroborate | F[B-](F)(F)F.[NH2+]1C(CCC1)=O | InChI=1S/C4H7NO.BF4/c6-4-2-1-3-5-4;2-1(3,4)5/h1-3H2,(H,5,6);/q;-1/p+1
